US07683064B2
To 1.3 g (6.07 mmol) 2-methyl-2-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-propionitrile dissolved in 20 ml degassed dioxane was added 6.40 g (24.27 mmol) 2,6-dibromobenzaldehyde, 3.96 g (12.14 mmol) cesium carbonate, 70 mg (0.121 mmol) Pd(dba)2, and 105 mg (0.182 mmol) xantphos. The mixture was heated to 110° C. for 3 h, cooled to room temperature, and filtered over Celite rinsing with dioxane. The mixture was then concentrated and purified by column chromatography, eluting with ethyl acetate/hexanes to provide 1.10 g (46%) 2-[2-(3-bromo-2-formylphenyl)-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl]-2-methylpropionitrile.

reactant | 2-methyl-2-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-propionitrile | 6.07 mmol, 1.3 g | CC(C#N)(C)C=1C=C2CCNC(C2=CC1)=O | C13H14N2O
reactant | 2,6-dibromobenzaldehyde | 24.27 mmol, 6.40 g | BrC1=C(C=O)C(=CC=C1)Br | C7H4Br2O
reactant | cesium carbonate | 12.14 mmol, 3.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd(dba)2 | 0.121 mmol, 70 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | xantphos | 0.182 mmol, 105 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-[2-(3-bromo-2-formylphenyl)-1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl]-2-methylpropionitrile | 1.10 g, 46% | BrC=1C(=C(C=CC1)N1C(C2=CC=C(C=C2CC1)C(C#N)(C)C)=O)C=O | C20H17BrN2O2
